US06649643B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide
The similar reaction as described in Example 50-(i) was carried out by using N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (700 mg) and vinylmagnesium bromide in THF (1M; 5 mL) to give the titled compound (478 mg) as colorless powder.

reactant | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 700 mg | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
solvent | THF | 1M, 5 mL | C1CCOC1 | C4H8O
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 478 mg | OC(CC)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C18H19N3O2
